US09227978B2
4-Chloro-2-methoxy-5-(1-methylcyclopropyl)aniline
A mixture of N-(4-chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)acetamide (820 mg, 3.23 mmol), KOH (1.8 g, 32.3 mmol), ethanol (40 mL) and water (20 mL) was stirred at reflux for 12 h. The reaction mixture was extracted with ethyl acetate. The combined organic layer was washed with water and brine, dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (ethyl acetate/petroleum ether=20:1) to afford the desired product (460 mg, 67% yield). ESI-MS m/z: 212.4[M+H]+.

reactant | N-(4-chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)acetamide | 3.23 mmol, 820 mg | ClC1=CC(=C(C=C1C1(CC1)C)NC(C)=O)OC | C13H16ClNO2
reactant | KOH | 32.3 mmol, 1.8 g | [OH-].[K+]
reactant | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 4-Chloro-2-methoxy-5-(1-methylcyclopropyl)aniline | 460 mg, 67% yield | ClC1=CC(=C(N)C=C1C1(CC1)C)OC | C11H14ClNO
